US05066654
2-(4-Chlorophenyl)-3-(2-pyridinylmethyl)-3H-imidazo[4,5-b]pyridine
A solution of 4-chloro-N-[2-[(2-pyridinylmethyl)amino]-3-pyridinyl]benzamide (14.65 g, 0.0433 mol) prepared in the previous paragraph and ethylene glycol (145 mL) were heated at reflux for 1.5 hr and then stirred at room temperature overnight. The resulting solid was collected by filtration, rinsed several times with water, recrystallized from isopropanol/water and dried under high vacuum at 70° C. to give 10.36 g (74% yield) of the title compound, mp 144°-146° C.

reactant | 4-chloro-N-[2-[(2-pyridinylmethyl)amino]-3-pyridinyl]benzamide | 0.0433 mol, 14.65 g | ClC1=CC=C(C(=O)NC=2C(=NC=CC2)NCC2=NC=CC=C2)C=C1 | C18H15ClN4O
solvent | ethylene glycol | 145 mL | C(CO)O | C2H6O2
product | 2-(4-Chlorophenyl)-3-(2-pyridinylmethyl)-3H-imidazo[4,5-b]pyridine | 10.36 g, 74% yield | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC1=NC=CC=C1 | C18H13ClN4
